US06770420B2
23.2 g (0.13 mol) of α-hydroxyimino-3,4-dimethylbenzylcyanide are reacted with 27.2 ml (0.20 mol) of triethylamine and 11.1 ml (0.14 mol) of methansulfonyl chloride in tetrahydrofuran, as described under 3.2. After the usual processing, 32.6 g of a crude product are obtained, which is then recrystallised from isopropanol, giving 30.5 g (93%) of α-(methyl-sulfonyloxyimino)-3,4-dimethylbenzylcyanide in the form of a brownish powder having an m.p. of 91-95° C.

reactant | α-hydroxyimino-3,4-dimethylbenzylcyanide | 0.13 mol, 23.2 g | ON=C(C1=CC(=C(C=C1)C)C)C#N | C10H10N2O
reactant | triethylamine | 0.20 mol, 27.2 ml | C(C)N(CC)CC | C6H15N
reactant | methansulfonyl chloride | 0.14 mol, 11.1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-(methyl-sulfonyloxyimino)-3,4-dimethylbenzylcyanide | 30.5 g, 93% | CS(=O)(=O)ON=C(C1=CC(=C(C=C1)C)C)C#N | C11H12N2O3S
